US04957937
Methyl 2-bromomethylphenylglyoxylate O-methyloxime
21.4 g (0.133 mol) of bromine are added to a stirred solution of 27.5 g (0.133 mol) of methyl 2-methylphenylglyoxylate O-methyloxime in 400 ml of tetrachloromethane. The mixture is then refluxed while irradiating with a 300 W Hg vapor lamp for four hours. It is then concentrated, the residue is taken up in ethyl acetate/water, and the organic phase is washed with H2O, dried over sodium sulfate and concentrated. The crude product is purified by chromatography on silica gel with cyclohexane/ethyl acetate (9/1). 17.4 g (46%) of the abovementioned compound are obtained as an oil.

reactant | bromine | 0.133 mol, 21.4 g | BrBr | Br2
reactant | methyl 2-methylphenylglyoxylate O-methyloxime | 0.133 mol, 27.5 g | CON=C(C(=O)OC)C1=C(C=CC=C1)C | C11H13NO3
solvent | tetrachloromethane | 400 ml | ClC(Cl)(Cl)Cl | CCl4
product | Methyl 2-bromomethylphenylglyoxylate O-methyloxime | 17.4 g, 46% | CON=C(C(=O)OC)C1=C(C=CC=C1)CBr | C11H12BrNO3
